US07585886B2
A 1.5 ml DMF solution of 72 mg of tert-butyl {[(3R,4S)-1-(4-cyanobenzoyl)-4-phenylpyrrolidin-3-yl]methyl}[(1R)-1-(1-naphthyl)ethyl]carbamate was mixed with 153 mg of sodium azide and 304 mg of triethylamine hydrochloride and stirred at 120° C. for 2Hours. By post-treating and purifying this in the standard method, 68 mg of tert-butyl [(1R)-1-(1-naphthyl)ethyl]({(3R,4S)-4-phenyl-1-[4-(1H-tetrazol-5-yl)benzoyl]pyrrolidin-3-yl}methyl)carbamate was obtained as a yellow amorphous substance. EN: 601

reactant | tert-butyl {[(3R,4S)-1-(4-cyanobenzoyl)-4-phenylpyrrolidin-3-yl]methyl}[(1R)-1-(1-naphthyl)ethyl]carbamate | 72 mg | C(#N)C1=CC=C(C(=O)N2C[C@@H]([C@H](C2)C2=CC=CC=C2)CN(C(OC(C)(C)C)=O)[C@H](C)C2=CC=CC3=CC=CC=C23)C=C1 | C36H37N3O3
reactant | sodium azide | 153 mg | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | 304 mg | Cl.C(C)N(CC)CC
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | tert-butyl [(1R)-1-(1-naphthyl)ethyl]({(3R,4S)-4-phenyl-1-[4-(1H-tetrazol-5-yl)benzoyl]pyrrolidin-3-yl}methyl)carbamate | 68 mg | C1(=CC=CC2=CC=CC=C12)[C@@H](C)N(C(OC(C)(C)C)=O)C[C@H]1CN(C[C@@H]1C1=CC=CC=C1)C(C1=CC=C(C=C1)C1=NN=NN1)=O | C36H38N6O3
